US08115014B2
Dimethyl 4,4′-[4-fluoro-2-methyl-7-({4-[4-(2,3,4,6-tetrafluorophenyl)butoxy]phenyl}ethynyl)-1H-indole-1,3-diyl]dibutanoate
By the same procedure as in Example 2→Example 3→Example 4→Example 8 using methyl 4-(7-bromo-4-fluoro-2-methyl-1H-indol-3-yl)butanoate instead of the compound prepared in Example 1; using methyl 4-bromobutyrate instead of ethyl 4-bromobutyrate; and using 4-(2,3,4,6-tetrafluorophenyl)butyl 4-methylbenzene sulfonate instead of the compound prepared in Example 7, the title compound having the following physical properties was obtained.

reactant | methyl 4-(7-bromo-4-fluoro-2-methyl-1H-indol-3-yl)butanoate | BrC=1C=CC(=C2C(=C(NC12)C)CCCC(=O)OC)F | C14H15BrFNO2
reactant | methyl 4-bromobutyrate | BrCCCC(=O)OC | C5H9BrO2
reactant | 4-(2,3,4,6-tetrafluorophenyl)butyl 4-methylbenzene sulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCCC1=C(C(=C(C=C1F)F)F)F | C17H16F4O3S
product | Dimethyl 4,4′-[4-fluoro-2-methyl-7-({4-[4-(2,3,4,6-tetrafluorophenyl)butoxy]phenyl}ethynyl)-1H-indole-1,3-diyl]dibutanoate | FC1=C2C(=C(N(C2=C(C=C1)C#CC1=CC=C(C=C1)OCCCCC1=C(C(=C(C=C1F)F)F)F)CCCC(=O)OC)C)CCCC(=O)OC | C37H36F5NO5
